Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been going through a lot lately."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Per Dr. ___ ___ ED Initial Psychiatry Consult note:

"The patient has no formal prior psychiatric history, however 
she
describes longstanding depressed mood and intermittent suicidal
thoughts, and has a history of a prior suicide attempt (see ___
below). She has felt more acutely depressed, overwhelmed and
hopeless over the past few days after and argument and breakup
with her boyfriend ___, and she has had thoughts of 
overdosing
on pills. She has considered taking her friend's ___, and has
been "Googling how much it would take to overdose".
Significantly, patient says that she has been "lying to people
for years" because she is "not happy with my life" - embarrassed
or ashamed about her life circumstances she would tell people
that her parents were together and that they had better jobs 
than
they in fact had. When she feared that she might not be able to
attend college for financial reasons, she lied to her boyfriend,
saying that her father died as an explanation for why she had to
remain home. This past weekend her boyfriend discovered these
deceptions and confronted her, triggering this acute episode of
worsening mood and suicidality.

In terms of depressive symptoms, she reports relatively
anhedonia, some feelings of hopelessness, variable energy,
sometimes poor concentration; increased appetite "with stress";
sleep is generally ok.  She describes hearing sounds or 
"yelling"
at night when she is going to sleep, but recognizes this is "not
real". There are no other psychotic symptoms; no manic symptoms
now or in the past. Not much anxiety, no clear stress-related
symptoms. Few friends, she is quite isolated.  Now ex-boyfriend
___ lives in ___.
When asked about schoolwork she says "I'm passing"."

In the ED, patient remained under good behavioral control 
without
any major issues.

On interview today, patient reiterates her story is described to
Dr. ___.  She states that she had a conflict with her
boyfriend related to lies that she had told him in the past.  
She
shares that since this time she has had worsening thoughts of
depression with feelings of hopelessness and helplessness.  She
states that her ex-boyfriend ___ stated to her that he could
not be in a relationship with her at this time.  Nevertheless,
she still considers him a great support and he has been in
involved in helping her through this process.  She is
significantly anxious about being on the unit, and feels that
everything happened quite quickly.  She states frustration with
the fact that she went to seek help and then ended up being
admitted to an inpatient unit.  She does recognize the benefits
of inpatient admission given that she has been progressively
worsening, researching ways to commit suicide online, and 
keeping
all of her feelings bottled up and to herself. States she is
living for her family who are supporting her.  She shares that
this is why she reached out for help at the ___. 
She sees some value in working with the team to create a safe
treatment plan and is amenable to establishing outpatient
follow-up.  As above she notes that she has had worsening mood
with decreased energy, hypersomnolence, increased appetite, and
has had anhedonia and as a result has been skipping her classes
recently.  She denies any changes in her concentration.  She
reports rumination surrounding her recent stressors.  Denies
avoidance, phobias, panic.  She denies any symptoms of mania 
such
as increased goal-directed activity, decreased need for sleep, 
or
increased risk-taking behaviors.  She does report experiencing
occasional auditory hallucinations of a man yelling who is why
she believes to be her father's, which has been persistent since
middle school.  She does not find these distressing, and feels
that she has ways of coping with them at this time.  She denies
any other auditory or visual hallucinations or perceptual
disturbances.  
 
Past Medical History:
None 
Denies history of head trauma, seizure.
 
Social History:
-Born/Raised: in ___, ___ lived mainly with her grandmother 
and
her mother "came and went depending on what boyfriend she was
with". Parents were never together, they were both in high 
school
when she was born.  She has ___ younger brother ___ yr younger) and
1 sister ___ years old), both are her mother's children.  
-Relationship status/Children: Recent breakup with her boyfriend
who lived in ___
-Primary Supports: Limited, in touch with her mother and
ex-boyfriend, ___ and withholding of information from 
___
regarding her mental state. States she is living for her family
who are supporting her.
-Housing: Patient lives in ___ at ___ with one roommate
-Education: Graduated high school and now in her first year of
___ for voice concentration
-Employment/Income: student
-Additional information: She has competed in pageants - she was
___ last year.
 
Family History:
Psychiatric Diagnoses:
 Great aunt - bipolar disorder
-___ Use Disorders:
 Maternal grandmother- alcoholic
 Mother - possibly alcoholic
 Great aunt - drug use
-___ Attempts/Completed Suicides: None known
 
Physical Exam:
VITAL SIGNS:
___ Temp: 97.9 PO BP: 135/88 HR: 70 RR: 21 O2 sat: 
100%

EXAM:

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: Days of the week backwards was 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 min, ___ with
categorical prompting, long-term grossly intact
-Fund of knowledge: Consistent with education; intact to last 2
presidents, unable to name ___, Name ___ and ___
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the
other side" as "there is something on the other side"; 
interprets
"you cannot judge a book by its cover" as "get to know someone
before you judge them".
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: Age appearing appearing female, well groomed,
wearing hospital gown and headband, in no apparent distress
-Behavior: Sitting in interview chair, appropriate eye contact,
fidgeting with her hands, bouncing her legs up and down
-Attitude: Cooperative, engaged, friendly
-Mood: "I am okay "
-Affect: Mood-discongruent, tearful, anxious appearing, 
appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: Poor
 
Pertinent Results:
___ 04:00PM URINE  HOURS-RANDOM
___ 04:00PM URINE  UCG-NEGATIVE
___ 04:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-7.5 
LEUK-NEG
___ 04:00PM URINE  RBC-1 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-4
___ 01:33AM   GLUCOSE-86 UREA N-11 CREAT-0.7 SODIUM-140 
POTASSIUM-4.6 CHLORIDE-101 TOTAL CO2-24 ANION GAP-15
___ 01:33AM   estGFR-Using this
___ 01:33AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 01:33AM   WBC-2.7* RBC-4.44 HGB-12.2 HCT-39.3 MCV-89 
MCH-27.5 MCHC-31.0* RDW-12.9 RDWSD-41.8
___ 01:33AM   NEUTS-43.2 ___ MONOS-11.2 EOS-1.5 
BASOS-0.4 IM ___ AbsNeut-1.16* AbsLymp-1.16* AbsMono-0.30 
AbsEos-0.04 AbsBaso-0.01
___ 01:33AM   PLT COUNT-___. LEGAL & SAFETY:  
On admission, Ms. ___ signed a conditional voluntary 
agreement (Section 10 & 11) and that legal status remained in 
place throughout admission. Ms. ___ was also placed on 15 
minute checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Major Depressive Disorder: 
Ms. ___ has no formal prior psychiatric history but 
presented to ___ with worsening depressed mood and suicidal 
thoughts. She has a history of a prior suicide attempt when she 
was in high school (by hanging, using a noose). Prior to her 
admission, she presented to her school guidance counselor 
expressing suicidal thoughts, researching ways to commit 
suicide, and evolving plans to overdose on Xanax. This was in 
the context of ongoing family and relationship conflict. On 
admission interview, Ms. ___ endorsed continually having to 
uphold a perfect image of her life stemming from her involvement 
in ___ and ___. Due to this, she fabricated lies to 
her ex-boyfriend and other people about her life. Of particular 
concern, Ms. ___ lied to her ex-boyfriend about her home 
life and that her dad had died as reason for staying home for 
the semester. Her ex-boyfriend recently found out about her lies 
and broke up with her, which was an acute stressor leading to 
her worsening depressive symptoms. She also struggled with 
longstanding conflict and verbal abuse from her father. She 
endorsed auditory hallucinations of a man(possibly her father) 
yelling when she was younger but denies any since then. Ms. 
___ history was concerning for isolation (not having 
anyone to speak to and limited social support from her mother), 
loneliness, worsening depressed mood, increased sleep 
interfering with school, decreased energy/concentration, and 
recent suicidal ideation. We initially started Ms. ___ on 
Fluoxetine 25 mg PO daily and Hydroxyzine 25 mg as standing 
medication for anxiety/agitation/insomnia. Ms. ___ 
tolerated these medications well without side effects. During 
this admission, Ms. ___ was initially anxious due to her 
unfamiliarity with being on an inpatient psychiatric unit. 
However, patient showed improvement in terms of her insight 
about getting care for her depression. She also recognized that 
her fabricated lies were interfering with her interpersonal 
relationships. During admission Ms. ___ was engaged with 
group therapies and was more visible on the unit. Ms. ___ 
denied any thoughts of self harm, suicidal ideation plan or 
intent. Her mother was contacted and updated with her treatment 
plan. Ms. ___ was amenable to seeking long-term outpatient 
therapy with a psychiatrist and therapist. She was discharged on 
___.

3. SUBSTANCE USE DISORDERS:
#) Marijuana Use: Ms. ___ endorses almost daily marijuana 
use. She was counseled on discontinuing marijuana use. 

4. MEDICAL
Ms. ___ was medically cleared in the ED; no acute medical 
issues prevented admission to Deac 4. Additionally, Ms. ___ 
has no chronic medical issues requiring attention.

#) Abnormal EKG: Admission ECG showed increased signaling in LV 
regions, as well as sinus arrhythmia, and biphasic p-waves iso 
elevated BP and HR from baseline. Vital signs returned to 
baseline with additional reading and was simultaneous with 
decreased anxiety. We curbsided Medicine, who was not concerned 
with ECG. Sinus arrhythmia can be normal in young healthy 
individuals, as well as biphasic p waves. Increased LV signaling 
does not meet criteria for Left ventricular hypertrophy. No 
further workup was warranted. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Ms. ___ was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. These 
include occupational therapy and social work groups that focus 
on teaching patients various coping skills. Ms. ___ often 
attended these groups. Ms. ___ was visible in the milieu 
and appropriately interacted with staff and peers.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Ms. ___ did not have either an outpatient psychiatrist or 
therapist while admitted on Deac 4, therefore there were no 
outside providers to be contacted. Ms. ___ was referred to 
both an outpatient psychiatrist and therapist upon discharge.

Ms. ___ gave verbal permission for the team to contact her 
mother, ___, who was also given an update on Ms. 
___ progress while admitted and discharge plan.

6. INFORMED CONSENT: 
*Medication: Zoloft (sertraline)
 ---Benefits: Treatment of depression
 ---Adverse effects: Decreased appetite, nausea, diarrhea, 
constipation, dry mouth, insomnia, tremors, headache, dizziness, 
sexual dysfunction (decreased sexual desire, anorgasmia), 
sweating, hypotension, bruising, hyponatremia/SIADH (rare, in 
older patients), seizures (rare), weight gain (unusual), 
sedation (unusual), activation of suicidal ideation (rare)

*Medication: Vistaril (hydroxyzine)
 ---Benefits: Treatment of anxiety
 ---Adverse effects: Dry mouth, sedation, tremor, potential for 
respiratory depression

Ms. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. She appeared to appreciate the information conveyed 
in the consent process by asking appropriate questions, which 
were answered by the treatment team, and expressing 
understanding of the potential risks and benefits (see above). 
Prior to starting treatment, the team also discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment.  Ms. ___ understood the above and 
consented to begin the medication.

7. RISK ASSESSMENT
On presentation, Ms. ___ was evaluated and felt to be at an 
increased risk of harm to herself. Ms. ___ static risk 
factors noted at that time include history of suicide attempt, 
chronic mental illness, history of self-injurious behavior, 
adolescent age, and limited social supports. The modifiable risk 
factors identified were as such: suicidal ideation with evolving 
plan, impulsiveness, poorly controlled mental illness, lack of 
engagement with outpatient treatment, no established outpatient 
providers, social withdrawal, poor reality testing, 
hopelessness, acutely stressful events, and limited coping 
skills.

These modifiable risk factors were addressed with acute 
stabilization in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with 
psychiatrists), and presence in a social milieu environment. Ms. 
___ is being discharged with many protective factors, 
including female gender, sense of responsibility to family, 
help-seeking behavior, lack of suicidal ideation, 
future-oriented viewpoint, and medication compliance.

Patient demonstrated preserved capacity to engage in a 
meaningful conversation about safety planning in the event that 
suicide or thoughts of self-harm returned (e.g. patient would 
call family, call psychiatrist, call ___, or present to the 
emergency room).  Overall, based on the totality of our 
assessment at this time, Ms. ___ is not at an acutely 
elevated risk of harm to self nor danger to others.

Our prognosis of this patient is Fair.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  HydrOXYzine 25 mg PO Q6H:PRN anxiety/agitation/insomnia 
RX *hydroxyzine HCl 25 mg 1 tablet by mouth every 6 hours Disp 
#*56 Tablet Refills:*0 
2.  Sertraline 25 mg PO DAILY 
RX *sertraline 25 mg 1 tablet(s) by mouth daily in the morning 
Disp #*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder- acute episode
 
Discharge Condition:
VS: 
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___